US04518602
6-Bromo-2-phenylhexanoic acid (16 g, 59 mmole) and triphenylphosphine (20 g, 76 mmole) were dissolved in acetonitrile (100 ml), and the solution was heated at 100° C. for 18 hours. After the completion of the reaction, the solution was cooled and the solvent removed under reduced pressure. The residue was washed three times with toluene, whereby crystals separated out. The crystals were recrystallized from ethyl acetate to give 5-carboxy-5-phenylpentyltriphenylphosphonium bromide (21 g, 67%, m.p. 210°-215° C.).

reactant | 6-Bromo-2-phenylhexanoic acid | 59 mmole, 16 g | BrCCCCC(C(=O)O)C1=CC=CC=C1 | C12H15BrO2
reactant | triphenylphosphine | 76 mmole, 20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-carboxy-5-phenylpentyltriphenylphosphonium bromide | 21 g, 67% | [Br-].C(=O)(O)C(CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H29O2P.BrH/c31-30(32)29(25-15-5-1-6-16-25)23-13-14-24-33(26-17-7-2-8-18-26,27-19-9-3-10-20-27)28-21-11-4-12-22-28;/h1-12,15-22,29H,13-14,23-24H2;1H
